US05773423
A mixture of 2-chloro-N6 -(3-iodobenzyl)-9-[2,3,5-tri-O-benzoyl-β-D-ribofuranosyl]-adenine (760 mg, 0.916 mmol) and NH3 /MeOH (15 ml) was stirred for 66.5 h at room temperature. After the reaction mixture was concentrated to dryness, the residue was purified on a silica gel column chromatography (CHCl3 --MeOH, 20:1) to yield 2-chloro-N6 -(3-iodobenzyl)-9-[β-D-ribofuranosyl]-adenine (445 mg, 94%) as a foam. 1H NMR (DMSO-d6) d 3.55 (m, 1H, H-5'a), 3.65 (m, 1H, H-5'b), 3.94 (d, J=3.6 Hz, 1H, H-4'), 4.12 (m, 1H, H-3'), 4.51 (q, J=5.5 Hz, 1H, H-2'), 4.60 (br d, J=5.7 Hz, 2H, CH2), 5.04 (pseudo t, J=5.7 and 5.5 Hz, 1H, exchangeable with D2O, 5'-OH), 5.19 (d, J=4.9 Hz, 1H, exchangeable with D2O, OH), 5.47 (d, J=6.0 Hz, 1H, exchangeable with D2O, OH), 5.83 (d, J=5.5 Hz, 1H, H-1'), 7.13 (pseudo t, J=7.9 and 7.6 Hz, 1H, H-5"), 7.36 (d, J=7.5 Hz, 1H, H-4" or -6"), 7.60 (d, J=7.9 Hz, 1H, H-4" or -6"), 7.74 (s, 1H, H-2"), 8.43 (s, 1H, H-8), 8.94 (br t, J=6.0 Hz, 1H, exchangeable with D2O, NH,).

reactant | 2-chloro-N6 -(3-iodobenzyl)-9-[2,3,5-tri-O-benzoyl-β-D-ribofuranosyl]-adenine | 0.916 mmol, 760 mg | ClC1=NC(=C2N=CN(C2=N1)[C@H]1[C@H](OC(C2=CC=CC=C2)=O)[C@H](OC(C2=CC=CC=C2)=O)[C@H](O1)COC(C1=CC=CC=C1)=O)NCC1=CC(=CC=C1)I | C38H29ClIN5O7
reactant | NH3 MeOH | 15 ml | N.CO
product | 2-chloro-N6 -(3-iodobenzyl)-9-[β-D-ribofuranosyl]-adenine | 445 mg, 94% | ClC1=NC(=C2N=CN(C2=N1)[C@H]1[C@H](O)[C@H](O)[C@H](O1)CO)NCC1=CC(=CC=C1)I | C17H17ClIN5O4
